US05082974
Thereafter 102 g (0.765 mole) of anhydrous aluminum chloride was suspended in 200 ml of fluorobenzene. To the suspension was added dropwise a suspension of 120 g of the 4-methylsulfonylphenylacetyl chloride obtained above in 200 ml of fluorobenzene at a temperature of 0° to 3° C. The reaction vessel used was rinsed with 30 ml of fluorobenzene and the mixture was stirred at 20° C. for 4 hours. The reaction mixture was gradually poured into a mixture of ice water and hydrochloric acid and left to stand overnight, giving gummy solids. The solids were collected by filtration. The organic layer was separated from the filtrate and subjected to distillation under reduced pressure to recover 200 ml (52%) of fluorobenzene. The gummy solids were dissolved in dichloromethane, washed sequentially with water, a 5% aqueous solution of sodium bicarbonate and a saturated saline solution and dried over magnesium sulfate. The dichloromethane was distilled off and the resulting crystals were washed with diethyl ether, giving 77 g (51%) of 1-(4-fluorophenyl)-2-(4-methylsulfonylphenyl)ethanone as pale yellow solids.

reactant | aluminum chloride | 0.765 mole, 102 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-methylsulfonylphenylacetyl chloride | 120 g | CS(=O)(=O)C1=CC=C(C=C1)CC(=O)Cl | C9H9ClO3S
reactant | fluorobenzene | 200 ml | FC1=CC=CC=C1 | C6H5F
reactant | fluorobenzene | 200 ml | FC1=CC=CC=C1 | C6H5F
product | 1-(4-fluorophenyl)-2-(4-methylsulfonylphenyl)ethanone | 77 g, 51% | FC1=CC=C(C=C1)C(CC1=CC=C(C=C1)S(=O)(=O)C)=O | C15H13FO3S
